US06605610B1
D) 9-oxo-10-aza-Tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene
To a solution of 3-aminomethyl-indan-1-carboxylic acid methyl ester (assume 20.0 mmol, 1 equivalent) in 50 mL of methanol (this was the crude reaction mixture from the prior step, Example 60C) was added 3.84 g of sodium tert-butoxide (40.0 mmol, 2.0 equivalent). The reaction mixture was heated to a reflux for 2 hours. The reaction was cooled to room temperature and concentrated in vacuo. The residue was partitioned between 60 mL of ethyl acetate and 40 mL of 5% aqueous solution of sodium bicarbonate. The aqueous layer was extracted twice more with 50 mL of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated to provide a solid material. Recrystallization of the solid from 10 mL of toluene provided white crystals of the title compound (1.78 g, 51%). mp=172-173° C.; 1H NMR (400 MHz, CDCl3): δ 7.33 (d, J=7.6 Hz, 1H), 7.31(d, J=7.6 Hz, 1H), 7.22 (t, J=7.6 Hz, 1H), 7.18 (t, J=7.6 Hz, 1H), 5.62 (s, 1H), 3.68 (dd, J=11.2, 4.1 Hz, 1H), 3.55 (d, J=3.7 Hz, 1H), 3.43-3.37 (m, 1H), 3.18 (d, J=11.2 Hz, 1H), 2.52-2.45 (m, 1H), 2.32 (d, J=11.2 Hz, 1H); 13C NMR (100 MHz, CDCl3): δ 173.6, 144.7, 144.6, 128.0, 127.7, 123.2, 122.9, 49.3, 47.9, 39.1, 38.4; IR (neat, cm−1): 3218, 2949, 2872, 1666, 1485, 1459, 1400, 1328, 1303, 1288, 1250, 1215, 1122, 1104, 1045, 1004, 946, 910, 756, 730, 643, 613; Anal. Calcd for C11H121NO: C, 76.28; H, 6.40; N, 8.09; Found: C, 75.94; H, 6.27; N, 7.99.

reactant | 3-aminomethyl-indan-1-carboxylic acid methyl ester | 20.0 mmol, 1 equivalent | COC(=O)C1CC(C2=CC=CC=C12)CN | C12H15NO2
reactant | sodium tert-butoxide | 40.0 mmol, 3.84 g, 2.0 equivalent | CC(C)([O-])C.[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 9-oxo-10-aza-Tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene | O=C1C2C=3C=CC=CC3C(CN1)C2 | C11H11NO
